US04463181
2-amino-5(6)-benzoylbenzimidazole
A slurry of 50 g of 2-amino-1-isopropylsulfonyl-5-benzoylbenzimidazole was heated in 300 ml of acetone and 500 ml of water with 350 ml of 1N sodium hydroxide on a steam bath for two hours. The heating was continued to remove the acetone. Afterwards the solution was cooled to room temperature with stirring. When the cleavage was complete, the precipitate title compound was filtered and washed with water. m/e=237, 160, 105, 77.

reactant | 2-amino-1-isopropylsulfonyl-5-benzoylbenzimidazole | 50 g | NC1=NC2=C(N1S(=O)(=O)C(C)C)C=CC(=C2)C(C2=CC=CC=C2)=O | C17H17N3O3S
reactant | water | 500 ml | O | H2O
reactant | sodium hydroxide | 1N, 350 ml | [OH-].[Na+]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 2-amino-5(6)-benzoylbenzimidazole | C1=CC=C(C=C1)C(=O)C2=CC3=C(C=C2)N=C(N3)N | C14H11N3O
